US07994171B2
2-(4-Fluorophenyl)-5-(4-methoxy-2-methyl-5-(1-(5-methylisoxazol-3-yl)cyclopropylcarbamoyl)phenyl)-N-methylbenzofuran-3-carboxamide.
To a mixture of 5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-2-methoxy-4-methylbenzoic acid (0.2 g, 0.46 mmol, 1 eq), 1-(5-methylisoxazol-3-yl)cyclopropanamine (0.074 g, 0.5 mmol, 1.1 eq), HOBT (0.094 g, 0.69 mmol, 1.5 eq), EDC.HCl (0.0.13 g, 0.69 mmol, 1.5 eq), in DCM at ambient temperature and under a nitrogen atmosphere was added diisopropylehtylamine (0.19 ml, 1.3 mmol, 3.0 eq). The clear mixture was stirred at ambient temperature for 12 h. The mixture was concentrated, diluted with water and extracted with EtOAc. The organic layer was further washed with water, dried over sodium sulphate and concentrated. The product obtained was purified by Preparative TLC (Eluent Hexane:Ethyl acetate 1:1, 300 ml). Yield: 0.1 g (39.22%). 1H NMR (400 MHz, CD3OD): δ 1.39-1.48 (m, 4H), 2.36 (s, 3H), 2.380-2.382 (d, 3H, J=0.8 Hz), 2.96 (s, 3H,), 4.05, (s, 3H), 6.05 (d, 1H, J=0.8 Hz), 7.12 (s, 1H), 7.26-7.34 (m, 3H), 7.58-7.59 (d, 1H, J=1.2 Hz), 7.62-7.64 (d, 1H, J=8.8 Hz), 7.81 (s, 1H), 7.96-7.98 (m, 2H). LCMS: (ES+) m/z=554.2 (M+H)+ Column-Ascentis Express C18 (5×2.1 mm-2.7 μm)

reactant | 5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-2-methoxy-4-methylbenzoic acid | 0.46 mmol, 0.2 g, 1 eq | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C(=CC(=C(C(=O)O)C2)OC)C | C25H20FNO5
reactant | 1-(5-methylisoxazol-3-yl)cyclopropanamine | 0.5 mmol, 0.074 g, 1.1 eq | CC1=CC(=NO1)C1(CC1)N | C7H10N2O
reactant | HOBT | 0.69 mmol, 0.094 g, 1.5 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 0.69 mmol, 1.5 eq | CCN=C=NCCCN(C)C.Cl
reactant | diisopropylehtylamine | 1.3 mmol, 0.19 ml, 3.0 eq | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-(4-Fluorophenyl)-5-(4-methoxy-2-methyl-5-(1-(5-methylisoxazol-3-yl)cyclopropylcarbamoyl)phenyl)-N-methylbenzofuran-3-carboxamide | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C2=C(C=C(C(=C2)C(NC2(CC2)C2=NOC(=C2)C)=O)OC)C | C32H28FN3O5
